US05395835
Step A: Preparation of 4-(2,3-dichlorophenyl)-1-piperazineacetonitrile
2,3-Dichlorophenyl piperazine (5.0 g, 0.0216 mol), chloroacetonitrile (1.37 mL, 0.0216 mol), and potassium carbonate (K2CO3) (14.95 g, 0.108 mol) are combined in acetonitrile and heated to reflux for 18 hours. The reaction mixture is concentrated in vacuo and the resulting residue is partitioned between water (H2O) and dichloromethane. The organic layer is dried (sodium sulfate) and concentrated to give 5.45 g of the title compound as a yellow solid; mp 89°-92° C.

reactant | 2,3-Dichlorophenyl piperazine | 0.0216 mol, 5.0 g | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | chloroacetonitrile | 0.0216 mol, 1.37 mL | ClCC#N | C2H2ClN
reactant | potassium carbonate | 0.108 mol, 14.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(2,3-dichlorophenyl)-1-piperazineacetonitrile | 5.45 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC#N | C12H13Cl2N3
